US04058550
A solution of 7.34 g of 4-(n-hexadecylamino)benzoic acid, 4.80 g of 25% aqueous sodium hydroxide, and 12.6 g of 3-iodo-1,2-propanediol in 50 ml of hexamethylphosphoramide is stirred for 24 hours at ambient temperature, diluted with 100 ml of ether and stirred for 5 days at ambient temperature. The mixture is treated with water and extracted with ether. The dried extracts are evaporated to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate, m.p. 112° C.

reactant | 4-(n-hexadecylamino)benzoic acid | 7.34 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | sodium hydroxide | 4.80 g | [OH-].[Na+]
reactant | 3-iodo-1,2-propanediol | 12.6 g | ICC(CO)O | C3H7IO2
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
